US05593984
2.0 g of 6-acetylpyrrolo[1,2-a]pyrazine prepared in Preparation Example 15 was added to 30 ml of water; and 0.5 g of sodium borohydride was added thereto. After reacting at 50° C. for 2 hours, the mixture was extracted with ethyl acetate (50 ml×3). The residue was chromatographed over silica gel to yield 1.4 g of 6-(1-hydroxyethyl)pyrrolo[1,2-a]pyrazine.

reactant | 6-acetylpyrrolo[1,2-a]pyrazine | 2.0 g | C(C)(=O)C1=CC=C2N1C=CN=C2 | C9H8N2O
reactant | sodium borohydride | 0.5 g | [BH4-].[Na+]
solvent | water | 30 ml | O | H2O
product | 6-(1-hydroxyethyl)pyrrolo[1,2-a]pyrazine | 1.4 g | OC(C)C1=CC=C2N1C=CN=C2 | C9H10N2O
